US09340538B2
Step C: 4-((6-(2-chlorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid
Ethyl 6-(bromomethyl)-4-(2-chlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (2 g, 4.5 mmol) was reacted with morpholine-3-carboxylic acid hydrochloride (0.75 g, 4.5 mmol) according to the procedure as described in Example 1, Step C to give the title compound as a yellow solid (0.99 g, 45%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 6-(bromomethyl)-4-(2-chlorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 4.5 mmol, 2 g | BrCC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=CC=C1)Cl)C(=O)OCC | C17H15BrClN3O2S
reactant | morpholine-3-carboxylic acid hydrochloride | 4.5 mmol, 0.75 g | Cl.N1C(COCC1)C(=O)O
product | 4-((6-(2-chlorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 0.99 g, 45% | ClC1=C(C=CC=C1)C1C(=C(NC(=N1)C=1SC=CN1)CN1C(COCC1)C(=O)O)C(=O)OCC | C22H23ClN4O5S
